US07728025B2
(Step 3) Production of pyridine-2-carboxylic acid-(4-(1-acetyl-pyrrolidin-2-yl)-3-fluoro-phenyl)-amide
90 mg of pyridine-2-carboxylic acid and 190 mg of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide monohydrochloride were added in order to a pyridine (2 ml) solution of 181 mg of t-butyl 2-(4-amino-2-fluoro-phenyl)-pyrrolidine-1-carboxylate, and the reaction liquid was stirred at room temperature for 3 hours. The reaction liquid was diluted with chloroform, washed with water and saturated saline, and dried with anhydrous magnesium sulfate. The solvent was evaporated away under reduced pressure, and 2 ml of 4 N hydrochloric acid-dioxane solution was added to 300 mg of the resulting residue, and the reaction liquid was stirred at room temperature for 1 hour. The reaction liquid was diluted with chloroform, and made basic with aqueous saturated sodium bicarbonate solution added thereto, and the organic layer was washed with saturated saline and dried with anhydrous magnesium sulfate. The solvent was evaporated away under reduced pressure, and 0.020 ml of acetic anhydride was added to a pyridine (1 ml) solution of the resulting residue, and the reaction liquid was stirred at room temperature for 20 minutes. The reaction liquid was diluted with chloroform, washed with water and saturated saline in order, and dried with anhydrous magnesium sulfate. The solvent was evaporated away under reduced pressure, and the resulting residue was purified through silica gel column chromatography (developing solvent: chloroform/methanol=50/1) to obtain the entitled compound as a yellow solid.

reactant | pyridine-2-carboxylic acid | 90 mg | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide monohydrochloride | 190 mg | Cl.CN(CCCN=C=NCC)C
reactant | t-butyl 2-(4-amino-2-fluoro-phenyl)-pyrrolidine-1-carboxylate | 181 mg | NC1=CC(=C(C=C1)C1N(CCC1)C(=O)OC(C)(C)C)F | C15H21FN2O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | pyridine-2-carboxylic acid-(4-(1-acetyl-pyrrolidin-2-yl)-3-fluoro-phenyl)-amide | C(C)(=O)N1C(CCC1)C1=C(C=C(C=C1)NC(=O)C1=NC=CC=C1)F | C18H18FN3O2
